US05364866
3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2,2-dimethyl-1-propanol fumarate
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (3.0 gm, 13.6 mmoles), K2CO3 (12.5 gm, 17.5 mmoles), 3-bromo-2,2-dimethyl-1-propanol (3 gm, 21 mmoles, 1.5 eq.), tetrabutylammonium hydrogen sulfate (1 gm, phase transfer catalyst) in water (5 ml) and acetonitrile (150 ml) was heated at reflux for 43 days. TLC showed a small spot for the expected product. The mixture was diluted with EtOAc (400 ml) and washed with brine. The organic solution was dried and concentrated to a dark brown mixture. The crude mixture was purified carefully by flash chromatography (SiO2, 95 gm to afford the dried pure product; 260 mg, (6%) as an oil. This oil was converted to the fumarate salt by treatment with fumaric acid (98.5 mg, 1.0 eq.) in ethanol. Recrystallization from ethanol:ether yielded 210 mg of white crystals, m.p.=144°-145° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 13.6 mmoles, 3.0 gm | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 17.5 mmoles, 12.5 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-2,2-dimethyl-1-propanol | 21 mmoles, 3 gm, 1.5 eq. | BrCC(CO)(C)C | C5H11BrO
catalyst | tetrabutylammonium hydrogen sulfate | 1 gm | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 5 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2,2-dimethyl-1-propanol fumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(CO)(C)C)C=C1 | InChI=1S/C17H23FN2O2.C4H4O4/c1-17(2,11-21)10-20-7-5-12(6-8-20)16-14-4-3-13(18)9-15(14)22-19-16;5-3(6)1-2-4(7)8/h3-4,9,12,21H,5-8,10-11H2,1-2H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
